* Z:\home\mattr\uni\elec2134\TLB 1\Task2 DC.asc
V1 N001 0 SINE(0 12 1000) AC 12
R1 a N001 3k
R2 b a 3k
R3 a c 3k
R4 b c 3k
R5 b 0 3k
R6 0 c 5k
;tran 1
.ac lin 10 1 1meg
.backanno
.end
