* C:\Users\matth\Documents\GitHub\elec2134\TLB 1\Task4-vs1.asc
V1 N001 0 5 AC 5 100
R1 0 P001 10
R2 N002 0 10
C1 P001 N001 100µ
L1 N001 N002 10m
.ac dec 10 0.2 0.4
.backanno
.end
