* C:\Users\matth\Documents\GitHub\elec2134\TLB 1\Task4-vs2.asc
R1 ix P001 10
R2 N001 0 10
C1 P001 0 100µ
L1 0 N001 10mil
V2 ix 0 AC 10 -60
.ac dec 10 0.5 0.7
.backanno
.end
