* C:\Users\matth\Documents\GitHub\elec2134\TLB 4\Task4.asc
V1 N003 0 AC 120
R1 N001 N003 1
R2 N004 N001 2
Lp 0 N004 100
Ls 0 N002 1600
R3 N002 0 5
C1 N002 N001 0.3333
k1 Lp Ls 1
.ac lin 10 18.849 18.85
.backanno
.end
