* C:\users\mattr\Favorites\elec2134\TLB 5\Task1.asc
I1 0 0 6
R1 N002 0 3
R2 0 N002 6
R3 N002 N001 2
C1 0 N001 0.05
L1 N001 0 5
I2 0 N001 6
.tran 10
.ic I(L1)=10.499
.ic V(n001)=26.997
.backanno
.end
