* C:\users\mattr\Favorites\elec2134\TLB 5\Task2.asc
V1 N001 0 PULSE(6 0 5 1n 1n 10)
R1 N002 N001 3
L1 N002 N003 0.25
C1 N003 0 0.1
R2 N003 0 5
I1 0 N003 PULSE(0 6 5 1n 1n 10)
.tran 10
.backanno
.end
